US07511145B2
1-(2-Bromo-5-fluoro-phenyl)-ethanone (868 mg, 4 mmol), p-chlorophenylboronic acid (768 mg, 1.2 eq.), and tetrakis (triphenylphosphine)palladium(0) (473 mg, 0.1 eq.), were dissolved in 25 mL toluene, 6 mL methanol and 2.5 mL sat. sodium bicarbonate solution. After degassing/sonicating the solution, the sealed reaction vessel was heated to 80° C. overnight. The cooled solution was separated between ethyl acetate and water; the aqueous phase extracted two more times with ethyl acetate, and the organic fractions were combined, dried with sodium sulfate and evaporated. Silica gel chromatography (5:1 hexanes/ethyl acetate) gave 1-(4′-chloro-4-fluoro-biphen-2-yl)-ethanone (821 mg).

reactant | 1-(2-Bromo-5-fluoro-phenyl)-ethanone | 4 mmol, 868 mg | BrC1=C(C=C(C=C1)F)C(C)=O | C8H6BrFO
reactant | p-chlorophenylboronic acid | 768 mg, 1.2 eq. | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | methanol | 6 mL | CO | CH4O
reactant | sodium bicarbonate | 2.5 mL | C([O-])(O)=O.[Na+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4′-chloro-4-fluoro-biphen-2-yl)-ethanone | 821 mg | ClC1=CC=C(C2=CC=C(C=C2C(C)=O)F)C=C1 | C14H10ClFO
